### PR TITLE
[Merged by Bors] - chore(GroupTheory/PushoutI): remove an erw

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites the `h₁` simplification in `eq_one_of_smul_normalized` into a single `simp only` chain, replacing the `rw` and `erw` steps around `equiv_one` and `mul_one`

Extracted from #38415

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/PushoutI.lean [hunk 1]
```diff
@@ -359,9 +359,9 @@ theorem eq_one_of_smul_normalized (w : CoprodI.Word G) {i : ι} (h : H)
         equiv_mul_left_of_mem (d.compl i) ⟨_, rfl⟩, hhead, Subtype.ext_iff,
         Prod.ext_iff] at h
       rcases h with ⟨h₁, h₂⟩
-      rw [h₂, equiv_one (d.compl i) (one_mem _) (d.one_mem _)] at h₁
-      erw [mul_one] at h₁
-      simp only [((injective_iff_map_eq_one' _).1 (d.injective i))] at h₁
+      simp only [h₂, equiv_one (d.compl i) (one_mem _) (d.one_mem _),
+        ← OneMemClass.one_def ((φ i).range), mul_one,
+        (injective_iff_map_eq_one' _).1 (d.injective i)] at h₁
```
Comment (tb65536) [inline Mathlib/GroupTheory/PushoutI.lean]: A plain `rw` should work here:
```suggestion
      rw [h₂, coe_mul, ((d.compl i).coe_equiv_fst_eq_one_iff_mem (one_mem _)).mpr (d.one_mem _),
        mul_one, Subtype.coe_mk, map_eq_one_iff (φ i) (d.injective i)] at h₁
```

**Review by tb65536 — APPROVED** [review]
maintainer merge

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
